US05550125
7.5. (±)-3-(2-Chloroethyl)-6-nitro-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine.
To 5.37 g (0.0135 mol) of (±)-6-nitro-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine-3-ethanol dissolved in 80 ml of dichloromethane are added dropwise 4.85 ml (0.0675 mol) of thionyl chloride and the mixture is stirred, while being kept warm in a bath of hot water, for 5 h 30.

reactant | (±)-6-nitro-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine-3-ethanol | 0.0135 mol, 5.37 g | [N+](=O)([O-])C=1C=CC2=C(N(C(CO2)CCO)C(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C18H15F3N2O5
reactant | thionyl chloride | 0.0675 mol, 4.85 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (±)-3-(2-Chloroethyl)-6-nitro-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine | ClCCC1COC2=C(N1C(C1=CC(=CC=C1)C(F)(F)F)=O)C=C(C=C2)[N+](=O)[O-] | C18H14ClF3N2O4
